US03965143
A mixture of 1 part of (4(RS)-hydroxy-3,3-dimethyl-1-octynyl)trimethylsilane, 1 part of potassium fluoride and 5 parts by volume of dimethylformamide is stirred vigorously at room temperature for about 16 hours, then is diluted with ether and water. The ether layer is separated, washed with water, dried over anhydrous sodium sulfate and stripped of solvent under reduced pressure to afford 3,3-dimethyl-1-octyn-4(RS)-ol, which exhibits an infrared absorption maximum at about 3320 reciprocal centimeters.

reactant | (4(RS)-hydroxy-3,3-dimethyl-1-octynyl)trimethylsilane | OC(C(C#C[Si](C)(C)C)(C)C)CCCC | C13H26OSi
reactant | potassium fluoride | [F-].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3,3-dimethyl-1-octyn-4(RS)-ol | CC(C#C)(C(CCCC)O)C | C10H18O
